US04804665
8-(4-Aminobutyryl)-2-methoxy-2,8-diazaspiro[4,5]decane-1,3-dione hydrochloride
To a solution of 2-methoxy-2,8-diazaspiro[4,5]decane-1,3-dione hydrochloride (1.5 g) in dimethylformamide (100 ml) were added triethylamine (1 ml), 4-(tert-butyloxycarbonylamino)butyric acid (2.03 g), N-hydroxybenztriazole (1.35 g) and dicylohexylcarbodiimide (2.06 g) in sequential additions, and this was followed by stirring at room temperature for 5 hours. The resulting precipitates were then removed. The solvent was evaporated under reduced pressure, and the resulting residual oily substance was dissolved in dichloromethane (50 ml), after which it was washed with a 10% aqueous solution of citric acid and then with water. The organic layer was then dried with anhydrous magnesium sulfate, and this was followed by the evaporation of the solvent under reduced pressure. The resulting residual oil was separated by silica gel column chromatography (eluent; chloroform-acetone-methanol=10:3:2 (v/v)). To the resulting oily substance containing the desired product was added a solution of 6N hydrogen chloride in ethanol (20 ml), and it was kept standing at room temperature for 10 minutes. The solvent was then evaporated under reduced pressure. The resulting oily substance was separated by silica gel column chromatography (eluent; chloroform-methanol-water=14:6:1) to obtain 1.2 g of a noncrystalline solid.

reactant | 2-methoxy-2,8-diazaspiro[4,5]decane-1,3-dione hydrochloride | 1.5 g | Cl.CON1C(C2(CC1=O)CCNCC2)=O
reactant | 4-(tert-butyloxycarbonylamino)butyric acid | 2.03 g | C(C)(C)(C)OC(=O)NCCCC(=O)O | C9H17NO4
reactant | N-hydroxybenztriazole | 1.35 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicylohexylcarbodiimide | 2.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 8-(4-Aminobutyryl)-2-methoxy-2,8-diazaspiro[4,5]decane-1,3-dione hydrochloride | 1.2 g | Cl.NCCCC(=O)N1CCC2(CC(N(C2=O)OC)=O)CC1 | InChI=1S/C13H21N3O4.ClH/c1-20-16-11(18)9-13(12(16)19)4-7-15(8-5-13)10(17)3-2-6-14;/h2-9,14H2,1H3;1H
